US07659268B2
To a solution of methyl 2-(3-bromophenyl)-4-nitrobutanoate (3.1 g, 11 mmol) and NiCl2-6 H2O (5.4 g, 23 mmol) in methanol (12 mL) was added NaBH4 (1.3 g, 34 mmol). The reaction mixture was stirred for 1 minute and was quenched by adding ice water. The mixture was filtered, and the filtrate was extracted with ethyl acetate (50 mL×3). The combined organic layers were dried over anhydrous Na2SO4, filtered and concentrated under the reduced pressure to give methyl 4-amino-2-(3-bromophenyl)-butanoate (2.5 g, 82%) as a white solid, which was directly used in the next step without further purification.

reactant | methyl 2-(3-bromophenyl)-4-nitrobutanoate | 11 mmol, 3.1 g | BrC=1C=C(C=CC1)C(C(=O)OC)CC[N+](=O)[O-] | C11H12BrNO4
reactant | NaBH4 | 34 mmol, 1.3 g | [BH4-].[Na+]
solvent | methanol | 12 mL | CO | CH4O
product | methyl 4-amino-2-(3-bromophenyl)-butanoate | 2.5 g, 82% | NCCC(C(=O)OC)C1=CC(=CC=C1)Br | C11H14BrNO2
